US06858627B2
Synthesis of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline
4-(1-Cyclohexylmethoxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester (70 mg) was treated with 255 μL of 1 M solution of sodium bis(trimethylsilyl)amide in THF and 45 mg of cyclohexylmethyl bromide to give the alkylated product, which was deprotected to yield 8 mg of the title compound as an oil.

reactant | 4-(1-Cyclohexylmethoxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)O)(C)C.C1(CCCCC1)COC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclohexylmethyl bromide | 45 mg | C1(CCCCC1)CBr | C7H13Br
solvent | THF | C1CCOC1 | C4H8O
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline | 8 mg | C(\C=C\C)OC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NO2
